US04602014
A solution of 102.16 g of 3-oxotetrahydrothiophene [prepared according to Recueil 83, 1160 (1964)], 187.22 g of diethyl aminomethylenemalonate, 1 g of p-toluenesulfonic acid monohydrate in 1500 ml of toluene is refluxed for 60 hours, and the water generated in the reaction is collected in a Dean-Stark trap. After cooling the solvent is evaporated and the residue is purified by filtration through 5 kg of silica gel, with a solvent mixture of 57% hexane and 43% ethyl acetate. On evaporation of the solvent, a solid (mp 95°-6°) is obtained which by NMR analysis is a 1:1 mixture of diethyl N-(2,5-dihydro-3-thienyl)-aminomethylenemalonate and N-(4,5-dihydro-3-thienyl)-aminomethylenemalonate. A mixture of the products (20.3 g) is suspended in 100 ml Dowtherm®A, and heated to 250°. After 2 hours at 250° the cooled solution is diluted with 1 L of a 1:1 mixture of ether and hexane and the resulting precipitate is filtered off. The 1:1 mixture of isomeric products is separated by flash chromatography on 800 g silica gel by eluting with a 96:4 mixture of dichloromethane and methanol to yield ethyl 4-hydroxy-6,7-dihydrothieno[3,2-b]pyridine-3-carboxylate, recrystallized from CH2Cl2 /MeOH (9:1), mp=252°-253°, and ethyl 4-hydroxy-5,7-dihydrothieno[3,4-b]pyridine-3-carboxylate, also recrystallized from CH2Cl2 /MeOH (9:1), mp=258°-9°.

reactant | diethyl N-(2,5-dihydro-3-thienyl)-aminomethylenemalonate | S1CC(=CC1)NC=C(C(=O)OCC)C(=O)OCC | C12H17NO4S
reactant | N-(4,5-dihydro-3-thienyl)-aminomethylenemalonate | S1C=C(CC1)NC=C(C(=O)[O-])C(=O)[O-]
reactant | Dowtherm | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | ethyl 4-hydroxy-6,7-dihydrothieno[3,2-b]pyridine-3-carboxylate | ON1C2=C(CCC1)SC=C2C(=O)OCC | C10H13NO3S
